US06060464
Diethyl α-(3,5-dimethoxy-4-hydroxyphenyl)-N-(4-picolyl)-aminomethylphosphonate
A solution of 2.5 g (13.7 mmol) syringaldehyde and 1.6 g (14.4 mmol) 4-picolylamine dissolved in 100 ml toluene contained in a flask connected to a Dean-Stark apparatus was refluxed for 3 h. Toluene was evaporated under vacuum then the residue dissolved in 10 ml THF was heated with 5.1 g (36.8 mmol) diethyl phosphite for 6 h. THF was evaporated and the residue was purified by column chromatography (SiO2, 95/5 CHCl3 /MeOH). Recrystallisation in a mixture of CH2Cl2 -petroleum ether gave 3.7 g (45%) of a solid, mp=124-126° C.

reactant | syringaldehyde | 13.7 mmol, 2.5 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | 4-picolylamine | 14.4 mmol, 1.6 g | N1=CC=C(C=C1)CN | C6H8N2
reactant | diethyl phosphite | 36.8 mmol, 5.1 g | P(OCC)(OCC)[O-]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl α-(3,5-dimethoxy-4-hydroxyphenyl)-N-(4-picolyl)-aminomethylphosphonate | 3.7 g, 45% | COC=1C=C(C=C(C1O)OC)C1=NC=CC(=C1)CNCP(OCC)(OCC)=O | C19H27N2O6P
